US06323235B1
3-bromomethyl-7-methoxybenzofuran
7-methoxy-2,3-dihydrobenzofuran-3-one (1.00 g) which is obtained by the process described in a reference (J. Org. Chem. 53, 423-425(1988) and dibromomethane (1.3 ml) were dissolved in tetrahydrofuran (30 ml) and the solution was cooled to −78° C. To this solution, n-butyllithium (1.62 M, 14.8 ml) was added dropwise for 10 minutes, and the resulting solution was stirred at −78° C. for 30 minutes. To this reaction solution, acetic acid (2 ml) was added and the solution was poured into water layer (30 ml). The water layer was extracted twice with ethyl acetate (20 ml) and the organic layers were combined. The resultant was washed with saturated brine and dried over sodium sulfate. After removing sodium sulfate by filtration, the solvent was evaporated off. The obtained residue was dissolved in benzene (30 ml) and p-toluenesulfonic acid (121 mg) was added thereto, followed by stirring the mixture at room temperature for 10.5 hours. The solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=15/1) using silica gel to obtain the desired compound (607 mg, yield: 41%).

reactant | dibromomethane | 1.3 ml | BrCBr | CH2Br2
reactant | n-butyllithium | 1.62 M, 14.8 ml | C(CCC)[Li]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | water | 30 ml | O | H2O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-bromomethyl-7-methoxybenzofuran | 607 mg, yield: 41% | BrCC1=COC2=C1C=CC=C2OC | C10H9BrO2
